US08614327B2
(S)-1-(tert-butoxycarbonyl)-4,4-difluoropyrrolidine-2-carboxylic acid (500 mg, 2.0 mmol) was dissolved in dichloromethane and treated dropwise with TFA (227 mg, 153 μL, 2 mmol). The reaction was stirred for 3 h at room temperature, the solvents evaporated to obtain (S)-4,4-difluoropyrrolidine-2-carboxylic acid, which was used in the next step without further purification. LC/MS: m/z 152.2 (M+H)+ at 0.53 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | (S)-1-(tert-butoxycarbonyl)-4,4-difluoropyrrolidine-2-carboxylic acid | 2.0 mmol, 500 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)(F)F)C(=O)O | C10H15F2NO4
reactant | TFA | 2 mmol, 153 μL, 227 mg | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-4,4-difluoropyrrolidine-2-carboxylic acid | FC1(C[C@H](NC1)C(=O)O)F | C5H7F2NO2
